US07935699B2
Diethyl malonate (14.3 ml, 94.20 mmol) was added to a stirred suspension of sodium hydride (4.75 g, 98.90 mmol, 50% dispersion in oil) in N,N-dimethylformamide (40 ml) at a rate such that the temperature was maintained below 40° C. On cessation of hydrogen evolution, the 1,3-dibromo-2,2-dimethoxy-propane (12.34 g, 47.09 mmol) was added in one portion and the reaction was heated at 135° C. for 48 h. To the cooled reaction was added an aqueous solution of ammonium chloride (100 g in 1.6 L) and extracted with hexane (4×50 ml). The combined extracts were then washed with water and aqueous saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated in vacuo. Unreacted 1,3-dibromo-2,2-dimethoxy-propane (6.9 g) was recovered by recrystallization from methanol. The filtrate was evaporated and more volatile fractions were removed by distillation under reduced pressure affording 3,3-dimethoxy-cyclobutane-1,1-dicarboxylic acid diethyl ester (3.05 g, 25%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.26 (t, J=6.9 Hz, 6H, 2×CH3), 2.73 (s, 4H, 2×CH2), 3.15 (s, 6H, 2×OCH3), 4.22 (q, J=6.9 Hz, 4H, 2×OCH2).

reactant | Diethyl malonate | 94.20 mmol, 14.3 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 98.90 mmol, 4.75 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1,3-dibromo-2,2-dimethoxy-propane | 47.09 mmol, 12.34 g | BrCC(CBr)(OC)OC | C5H10Br2O2
reactant | ammonium chloride | 1.6 L, 100 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3,3-dimethoxy-cyclobutane-1,1-dicarboxylic acid diethyl ester | 3.05 g, 25% | C(C)OC(=O)C1(CC(C1)(OC)OC)C(=O)OCC | C12H20O6
